US05945565
To a well-stirred mixture of 0.62 g (3.3 mmol) of 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride and 25 mL of methylene chloride in a 50 mL round-bottomed flask, placed in an ice bath, was added dropwise 0.91 g (9 mmol) triethylamine. After 15 minutes 0.44 g (3 mmol) 3,5-dichlorobenzoyl chloride in methylene chloride (approximately 5 mL) was added dropwise. The mixture was stirred while the temperature was maintained between 0° C. to 5° C. for 1 hour. The reaction mixture was warmed to room temperature and stirred for 3 hours. The reaction mixture was then poured into a mixture of ethyl acetate and water. The mixture separated into phases, an organic and an aqueous phase. The organic phase was washed sequentially with saturated aqueous sodium bicarbonate (1×50 mL), water (1×50 mL), 2.5% aqueous hydrochloric acid (1×50 mL), and water (1×50 mL). The organic layer was dried over anhydrous magnesium sulfate, treated with charcoal and filtered through Celite™ and the solvent was removed in a rotary evaporator yielding 0.6 g of 3,5-dichloro-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide as a white solid (mp 159-161° C.).

reactant | 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride | 3.3 mmol, 0.62 g | Cl.NC(C(CCl)=O)(CC)C
reactant | triethylamine | 9 mmol, 0.91 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 3 mmol, 0.44 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | approximately 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3,5-dichloro-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide | 0.6 g | ClC=1C=C(C(=O)NC(C(CCl)=O)(C)CC)C=C(C1)Cl | C13H14Cl3NO2
